US08981111B2
To a solution of 2-{6-[({[(1,2-dimethyl-1H-imidazol-5-yl)(phenyl)methylene]amino}-oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione (1.02 g, 2.26 mmol) in tetrahydrofuran (30 mL) was added dropwise hydrazine hydrate (0.55 mL, 11.3 mmol). After stirring at room temperature for 28 h, the reaction mixture was filtered, the insolubles washed with ethyl acetate, and the filtrate concentrated in vacuo. Purification on silica gel afforded 6-[({[(1,2-dimethyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine [370 mg, yield 43%; HPLC/MS: m/z=322 (M+H); log P(HCOOH)=0.39].

reactant | 2-{6-[({[(1,2-dimethyl-1H-imidazol-5-yl)(phenyl)methylene]amino}-oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione | 2.26 mmol, 1.02 g | CN1C(=NC=C1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O)C | C26H21N5O3
reactant | hydrazine hydrate | 11.3 mmol, 0.55 mL | O.NN
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 6-[({[(1,2-dimethyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-amine | 370 mg, yield 43% | CN1C(=NC=C1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)N)C | C18H19N5O
